US07294716B2
2-(4-Tolylsulfonyl)ethyl 3-{4-[4-methoxy-2-nitrophenylaminosulfonyl}-3,5-dimethylphenoxy]-2,2-dimethylpropionate (Intermediate A11)
A mixture of 3-{4-[4-methoxy-2-nitrophenylaminosulfonyl}-3,5-dimethylphenoxy]-2,2-dimethylpropionic acid (Intermediate A10, 24.2 g, 0.054 mol) and carbonyldiiuidazole (9.5 g, 0.059 mol) was diluted with 45 mL dichloromethane and warmed in a 36° C. bath for 15 min. Then, 4-tolylsulfonylethanol was added, the bath temperature was raised to 55° C., and the solvent was blown off in a nitrogen stream. After 1.5 hr, the stream was stopped, and after 2.5 hr, the cooled reaction mixture was partitioned between ethyl acetate and 1.2 M hydrochloric acid. The aqueous layer was extracted with additional ethyl acetate, and the combined organic layers were washed with water and saturated sodium chloride, concentrated at aspirator pressure and high vacuum. The product, title compound, (34 g, 99%) was carried on without further purification.

reactant | 3-{4-[4-methoxy-2-nitrophenylaminosulfonyl}-3,5-dimethylphenoxy]-2,2-dimethylpropionic acid | 0.054 mol, 24.2 g | COC1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=C(OCC(C(=O)O)(C)C)C=C1C)C)[N+](=O)[O-] | C20H24N2O8S
reactant | 4-tolylsulfonylethanol | C1(=CC=C(C=C1)S(=O)(=O)C(C)O)C | C9H12O3S
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 2-(4-Tolylsulfonyl)ethyl 3-{4-[4-methoxy-2-nitrophenylaminosulfonyl}-3,5-dimethylphenoxy]-2,2-dimethylpropionate | COC1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=C(OCC(C(=O)OCCS(=O)(=O)C2=CC=C(C=C2)C)(C)C)C=C1C)C)[N+](=O)[O-] | C29H34N2O10S2
